US09388189B2
b) N-(2-(Ethylamino)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide
N-(5-Bromo-2-(ethylamino)pyridin-3-yl)-4-methoxybenzenesulfonamide (176 mg, 0.46 mmol), bis(pinacolato)diboron (180 mg, 0.71 mmol), potassium acetate (135 mg, 1.38 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (20 mg, 0.02 mmol) were suspended in dioxane (3 ml) and stirred overnight at 100° C. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvent was evaporated under reduced pressure and the residue was purified by reverse phase chromatography using SP1® Purification System (C-18 silica from Waters®, water/1:1 acetonitrile-methanol as eluents [0.1% v/v formic acid buffered] 0% to 100%) to give 72 mg (24% yield) of the final product. Purity 65%.

reactant | N-(5-Bromo-2-(ethylamino)pyridin-3-yl)-4-methoxybenzenesulfonamide | 0.46 mmol, 176 mg | BrC=1C=C(C(=NC1)NCC)NS(=O)(=O)C1=CC=C(C=C1)OC | C14H16BrN3O3S
reactant | bis(pinacolato)diboron | 0.71 mmol, 180 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.38 mmol, 135 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | N-(2-(Ethylamino)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide | 72 mg, 24% yield | C(C)NC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C20H28BN3O5S
